Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've had very bad depression and anxiety." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history nd presentation, please see 
OMR including Dr. ___ initial consultation note 
dated ___, Dr. ___ initial consultation 
note dated ___, and Dr. ___ admission note dated ___.
. 
Briefly, this is a ___ year old woman, currently a student at ___, 
with psychiatric history notable for depression, anxiety, 
longstanding history of self injurious behaviors, one prior 
psychiatric hospitalization, no prior suicide attempts, who 
presented to ___ ED on the urging of her outpatient 
psychiatrist due to concern for worsening depression and 
suicidal ideation. 
. 
Upon initial interview, patient reported she was struggling with 
depression and anxiety with constant thoughts of suicide. Denied 
a specific plan but endorsed having thoughts of walking into 
traffic and had Googled information of overdosing on Wellbutrin. 
She reported these thoughts were causing significant anxiety and 
were frightening. Stated she would not act on a plan because it 
would "ruin my mom." Patient endorsed decreased energy, 
difficulty focusing, and the urgent of sleep all day. Also 
reported constant anxiety related to "everything" with the urge 
to scratch and hit walls due to her anxiety. She also endorsed 
panic attacks, approximately once per week with no clear 
triggers. Reported the panic attacks last ___ minutes and are 
sometimes "dissociative" in which she feels frozen with 
difficulty communicating what is going on. 
. 
Per collateral obtained from her mother ___: reported 
her daughter had recently been extremely overwhelmed, anxious 
and depressed. Mother reported this semester had been 
particularly difficult due to pressures the patient places on 
herself as well as personal issues. Stated that the patient 
having difficulty in school is unlike her. 
. 
Per collateral obtained in the ED from Dr. ___, who 
has been seeing the patient for some time. Dr. ___ reported 
that at baseline Ms. ___ is a high performing individual who 
is typically in valves in school (a ___, theater, writing). 
Approximately one month ago the patient became ill for along
period of time with an URI and had difficulty staying on top of 
her work during this time, but did not want to ask for 
extensions in school. Since she has improved rom the URI she has 
developed worsening depression, and has been unable to complete 
her work for the last ___ weeks. She told Dr. ___ would 
rather die than finish the semester like this. Dr. ___ 
presentation was consistent with depression in the setting of a 
graduating in a high performing individual. He has known Ms. 
___ to have frequent depressive episode with periods between 
in which she does okay. Recently, he had increased her 
Wellbutrin from 300 mg to 450 mg but she had not fill the 
prescription. Dr.
___ starting a mood stabilizer as well as some 
additional coping skills with a brief hospitalization. He also 
felt that if we were to discharge the patient with her mother to 
___ to present there for hospitalization, that that would be an 
appropriate dispo.
. 
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints.
. 
On my interview with Ms. ___, who was cooperative on 
examination and a reliable historian, she confirmed the history 
as noted above. Ms. ___ reported being diagnosed with 
depression and anxiety in the ___ grade; at that time she stated 
she began to become aware that she was different than her peers
in terms of race and socioeconomic status. Patient reported her 
anxiety worsened in high school after she was sexually assaulted 
by a classmate; after she reported the incident, the assault was 
"swept under the rug" by the high school. Patient is currently a 
___ year student at ___ and has been studying ___ and 
seeing Dr. ___ for the past ___ years for ongoing 
episodes of depression and anxiety. 
. 
Approximately a month ago, patient noted her depression and 
anxiety worsened significantly and that she has not been going 
to class or completing assignments, which has worsened her 
depression and anxiety even more. Reported it was the ___ year 
anniversary of the sexual assault and that she had recently had 
a conversation with her mother "about what happened with Dad" 
and learned her father, who had left her when she was age ___, had 
hit her mother in the past and was an alcoholic. Of note, she 
had recently suffered from the flu, which had started to set her 
back in classes. Reported she does not feel her grades are good 
this semester, which she finds incredibly stressful, "I've had a 
B- and a C+ before but those grades were balanced by my other 
good grades." 
. 
In this setting, patient reported difficulty motivating herself 
despite structuring every hour of the day in order to catch up 
on her academic work. She noted low mood, and stated that 
although she used to enjoy her coursework, she has not enjoyed 
school at this time. Reported erratic sleep, stating she will 
sleep only 3 hours for several days at a time due to ruminative 
thoughts and then "crash," sleeping 20 hours a night. Patient 
also endorsed significant feelings of guilt, stating she feels 
she is letting others down, particularly her ___ group and 
that they have a performance scheduled this ___. Reported she 
has been forgetting to eat at times, but when she does remember, 
she tends to make "unhealthy choices," resulting in some weight 
gain. She also endorsed anxiety, particularly about her academic 
status as well as "panic attacks" in which she feels "trapped, 
dissociated." She reports that recently she has been 
experiencing these several times a week with last panic attack 
on ___ after she saw an email from her professor stating 
he/she needed her to submit an essay immediately. Of note, 
patient denied suicidal ideation, stating she has intermittent 
thoughts of, "what would happen if I walked into traffic" but 
denies intent or plan, stating, "I'm not going to let it get to 
that place." 
. 
On psychiatric review of systems, patient denied a history of 
manic symptoms including decreased need for sleep, increased 
impulsivity, grandiosity, increased energy. Denied a history of 
psychosis including AVH, paranoia, thought insertion or 
broadcasting, ideas of reference. Panic attacks as noted above. 
Denied recent flashbacks or nightmares. Denied alcohol or drug
abuse.   

 
Past Medical History:
Past psychiatric history:
- Diagnoses: Depression, anxiety 
- Hospitalizations: s/p one prior hospitalization at ___ in ___ for depression, anxiety in
the setting of trauma 
- SA/SIB: denies history of suicide attempts, reports a history
of cutting and scratching in the past 
- Medication Trials: Prozac, Zoloft, Buproprion 
- Psychiatrist: Dr. ___ (cell: ___ 
. 
Past medical history:
- None active 
- Childhood asthma 

 
Social History:
Substance use 
- Alcohol: denies, drinks 1 drink per week 
- Illicits: denies 
- Tobacco: denies 
. 
Personal and Social History: Born and raised in ___, 
___ as an only child to an intact family. Patient 
reported her mother used to work as a ___ and in ___ in 
the past but has not worked for years and is currently on 
disability for depression. Ms. ___ described her mother as 
"my best friend" and her main support. Patient reported her 
father left the family suddenly when she was age ___ and her 
parents divorced, resulting in significant financial 
difficulties during her childhood. Despite this, patient 
excelled academically and obtained numerous scholarships to 
private schools, including middle school and high school. 
Patient reported that she first became depressed in the ___ 
grade when she started noticing she was "different," in terms of 
race and socioeconomic status, but could not recall what her 
depression was like at the time. Stated she did have friends in 
middle school but did not have many friends during high school, 
mostly "temporary friends." Patient attended ___ 
for high school and at age ___ she was sexually assaulted by a
former student of the high school who was Caucasian. Patient 
reported the incident to the school and her rapist was arrested, 
but "nothing happened...  they just swept it under the rug." 
Following this incident, patient reported she became 
significantly more anxious. Despite this, she graduated high 
school and earned a full scholarship to attend ___ 
___, where she is currently a senior majoring in ___. 
Reported that approximately ___ years ago her father came back 
into her life, which she feels ambivalent about-- he supports 
her financially but she recently asked her mother "what went 
down" with her father and learned he was an alcoholic and hit 
her mother once, which she is angry about. At this time, she is 
scheduled to graduate next ___ and she is currently applying 
for jobs with the dream of ___. Currently in a relationship 
of ___ year, states her boyfriend is supportive. Denies history of
legal issues, access to weapons.
 
Family History:
Family psychiatric history:
- Diagnoses: mother with depression and anxiety 
- Suicides: denies 
- Addictions: father with alcohol use disorder 

 
Physical Exam:
VITAL SIGNS:
T 98.2 PO; BP 123/86; HR 99; RR 16; sat 99% RA 

EXAM:
General:
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout
- Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales
- Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness
- Extremities: Warm and well-perfused.  No edema of the limbs
- Skin: No rashes or lesions noted
Neurological:
- Cranial Nerves:
  - I: Olfaction not tested
  - II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation
  - III, IV, VI: EOMI without nystagmus
  - V: Facial sensation intact to light touch in all
distributions
  - VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
  - VIII: Hearing intact to finger rub bilaterally
  - IX, X: Palate elevates symmetrically
  - XI: ___ strength in trapezii and SCM bilaterally
  - XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. Strength ___ throughout
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention
tremor noted
- Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent

Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: MOYB with 0 errors
- Orientation: Oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): Not tested
- Memory: ___ registration, ___ recall after 5 ___
grossly intact
- Fund of knowledge: Consistent with education; intact to last 2
presidents
- Calculations: 7 quarters = "$1.75"
- Abstraction: Interprets "the grass is always greener on the
other side" as "you always want what you can't have"
- Visuospatial: Not assessed
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
- Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in mild distress
- Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor retardation, moderate psychomotor agitation with leg
bouncing, shaking, and hyperventilation 
- Attitude: Cooperative, engaged, friendly
- Mood: "unstable"
- Affect: Mood-congruent, full range, tearful, anxious appearing
- Speech: Normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies violent ideations, SI with plan but no
intent, amenable to approaching staff if worsens
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: Fair
- Judgment: Fair

DISCHARGE EXAMINATION: 
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs

Vitals: T 97.8, BP 111/76, HR 88, SpO2 98%
Mental Status:
- Appearance: ___ yo female appearing stated age, adequate 
hygiene
and grooming, wearing hospital clothes with home pajamas, is 
calm
and smiling
- Behavior: No psychomotor agitation or retardation, appropriate
eye contact
- Attitude: Cooperative, engaged, friendly
- Mood: "Very good"
- Affect: Mood-congruent, full range, appropriate to situation
- Speech: Normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
 - Safety: Denies SI/HI
 - Delusions: No evidence of paranoia, etc. 
 - Obsessions/Compulsions: No evidence based on current
encounter
 - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: Fair
- Judgment: Fair

Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: Not formally assessed but attentive to interview
- Orientation: Oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): Not 
assessed
- Memory: Not formally assessed but intact to interview
- Fund of Knowledge: Above average
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 

 
Pertinent Results:
___ 10:00PM   ALT(SGPT)-19 AST(SGOT)-20 ALK PHOS-110* TOT 
BILI-0.2
___ 10:00PM   TSH-2.3
___ 10:00PM   WBC-8.0 RBC-4.79 HGB-14.3 HCT-41.9 MCV-88 
MCH-29.9 MCHC-34.1 RDW-12.5 RDWSD-39.8
___ 10:00PM   PLT COUNT-241
___ 05:30PM   GLUCOSE-84 UREA N-6 CREAT-0.7 SODIUM-142 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-27 ANION GAP-11
___ 05:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:30PM URINE  UCG-NEGATIVE
___ 05:30PM URINE  UHOLD-HOLD
___ 05:30PM URINE  GR HOLD-HOLD
___ 05:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:30PM   WBC-7.1 RBC-4.65 HGB-13.4 HCT-40.8 MCV-88 
MCH-28.8 MCHC-32.8 RDW-12.6 RDWSD-40.1
___ 05:30PM   PLT COUNT-207
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman, a senior student at ___ 
___, with a psychiatric history notable for depression, 
anxiety, longstanding self-injurious behaviors, one prior 
psychiatric hospitalization, no prior suicide attempts, who 
presented to ___ ED from her outpatient psychiatrist due to 
concerns for worsening depression and suicidal ideation.
.
The patient’s presentation was concerning for major depressive 
disorder with 1 to 2 months of worsening depressed mood, 
guilt/worry/anxiety about letting others down, erratic sleep, 
poor appetite, poor motivation, increasing frequency of “panic 
attacks” with dissociation, and concerns that she may partake in 
self-injurious behaviors such as walking into traffic. Pervasive 
symptoms of anxiety regarding constantly needing to be 
high-achieving since childhood, which appears to have been 
exacerbated in the recent months due to falling behind in 
classes, are concerning of generalized anxiety disorder. Exam 
was notable for depressed mood, dysthymic affect, and a thought 
process that was notably linear, logical, goal and future 
oriented.

The patient’s history of a chaotic childhood with onset of 
depression since ___ grade upon realizing she did not “fit in” 
with her classmates, and chronicity of depressive symptoms were 
concerning for an underlying personality component; however, a 
diagnosis of a personality disorder appeared unlikely given her 
good psychosocial functioning and young age. History was 
negative for symptoms concerning for mania/hypomania with 
negative family history of BPAD, so bipolar disorder was lower 
on the differential. History was also negative for concerning 
signs/symptoms of a psychotic disorder. While patient endorsed a 
traumatic sexual history, her current presentation was negative 
for symptoms that would meet criteria for a diagnosis of PTSD. 
Finally, substance use and an organic etiology for her 
presentation were considered unlikely given her negative history 
for substance use disorders/negative tox screen, as well as her 
young age and good health.
.
#. Legal/Safety: Patient was admitted to ___ 4 and upon 
admission, signed a Conditional Voluntary status which was 
accepted. She maintained her safety throughout her admission on 
15 minute checks and did not require physical or chemical 
restraints. 
.
#. Depression/Anxiety: Medical workup upon admission was within 
normal limits. Patient was compliant with pharmacotherapy 
offered and maintained excellent behavioral control during her 
admission, participating appropriately in her care. With her 
permission, treatment team contacted her outpatient 
psychiatrist, Dr. ___, who agreed with the plan for 
initiating lamotrigine 25 mg po daily for mood stabilization and 
risperidone 0.5 mg po bid prn for irritability/anxiety. Patient 
was on-board with initiating these medications after risks and 
benefits were discussed. Along with these medications, her home 
psychotropic regimen of sertraline 200 mg po daily and 
buproprion XL 300 mg po daily were continued; pharmacotherapy 
was tolerated well without adverse effects and patient expressed 
symptomatic improvement in mood, sleep, anxiety and 
restlessness. Treatment team also met with patient’s mother, who 
was on-board with the treatment plan as well as disposition. 
Plans for follow-up with BU re-entry and with Dr. ___ 
arranged. Of note, patient declined referral to a partial 
program at this time. She consistently denied suicidal ideation 
or thoughts of self harm throughout her psychiatric 
hospitalization.
.
On the day of discharge, the patient was noted to have “very 
good” mood, euthymic affect, future and goal oriented thought 
process, and displaying anticipation for returning to her social 
support group and partaking in a concert at ___. She denied 
suicidal or self-injurious ideation/plan.
.
#. Bright Red Blood Per Rectum: On day of admission, patient 
complained of rectal bleeding. A Medicine was placed and patient 
was found to have a stable H&H; per Medicine’s evaluation, 
etiology was determined to be most likely due to hemorrhoids. 
Patient was monitored closely for any signs/symptoms of blood 
loss, and she was started on a bowel regimen to reduce/prevent 
straining. A PCP appointment was made for the patient to 
follow-up with; the patient did not have any further complaints 
of rectal bleeding or pain and was asymptomatic by time of 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. Sertraline 200 mg PO DAILY 
3. Vienva (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY mood stabilization 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO BID:PRN anxiety/agitation 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY 
RX *bupropion HCl 300 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
4.  Sertraline 200 mg PO DAILY depression 
RX *sertraline 100 mg 2 tablet(s) by mouth daily Disp #*28 
Tablet Refills:*0 
5.  Vienva (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 
RX *levonorgestrel-ethinyl estrad [Vienva] 0.1 mg-20 mcg 1 
tablet(s) by mouth daily Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Major depressive disorder, recurrent, severe, without psychotic 
symptoms
-Generalized anxiety disorder

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs

Vitals: T 97.8, BP 111/76, HR 88, SpO2 98%
Mental Status:
- Appearance: ___ yo female appearing stated age, adequate 
hygiene
and grooming, wearing hospital clothes with home pajamas, is 
calm
and smiling
- Behavior: No psychomotor agitation or retardation, appropriate
eye contact
- Attitude: Cooperative, engaged, friendly
- Mood: 'Very good'
- Affect: Mood-congruent, full range, appropriate to situation
- Speech: Normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies SI/HI
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: Fair
- Judgment: Fair

Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: Not formally assessed but attentive to interview
- Orientation: Oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): Not 
assessed
- Memory: Not formally assessed but intact to interview
- Fund of Knowledge: Above average
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___